US04192871
3α-Hydroxy-11β-dipropylaminoacetoxy-5α-pregnan-20-one
Toluene-4-sulphonic acid (120 mg) was added to a solution of 20,20-ethylenedioxy-11β-dipropylaminoacetoxy-5α-pregnan-3α-ol (260 mg) in acetone (20 ml). The mixture was kept at room temperature until reaction was judged complete (TLC), when sodium bicarbonate solution was added and the precipitated material collected by filtration. Crystallization from ether-petroleum ether afforded title compound, m.p. 120°-122°, [α]D +92°.

reactant | Toluene-4-sulphonic acid | 120 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 20,20-ethylenedioxy-11β-dipropylaminoacetoxy-5α-pregnan-3α-ol | 260 mg | C1OC(C)([C@H]2CC[C@H]3[C@@H]4CC[C@H]5C[C@@H](CC[C@]5(C)[C@H]4[C@H](C[C@]23C)OC(CN(CCC)CCC)=O)O)OC1 | C31H53NO5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3α-Hydroxy-11β-dipropylaminoacetoxy-5α-pregnan-20-one | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@@H]([C@@H]3[C@]2(CC1)C)OC(CN(CCC)CCC)=O)C | C29H49NO4
